US06441237B1
3-hydroxy-2-(2,6-dimethylphenyl)-propionitrile (4)
58 g (0.33 mol) of hydroxymethylene-2,6-dimethylphenylacetonitrile are dissolved in 250 ml methanol and combined with 37 g (0.59 mol) of sodium cyanoborohydride. After 2 h, 250 ml of acetic acid are added dropwise, during which time the mixture heats up to 50° C. After the exothermic reaction has died down, the mixture is refluxed for a further 3 h. It is left to cool and the mixture is evaporated down in vacuo. The residue is mixed with 500 g of ice, neutralised with ammonia and extracted twice with 500 ml of ethyl acetate. The combined organic extracts are washed with 100 ml of water. After drying, the solvent is eliminated in vacuo. The residue is further processed from the crude state. 54.1 g (92% of theory) of the title compounds are obtained in the form of an oil.

reactant | hydroxymethylene-2,6-dimethylphenylacetonitrile | 0.33 mol, 58 g | OC=C(C#N)C1=C(C=CC=C1C)C | C11H11NO
reactant | sodium cyanoborohydride | 0.59 mol, 37 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 250 ml | CO | CH4O
product | 3-hydroxy-2-(2,6-dimethylphenyl)-propionitrile | OCC(C#N)C1=C(C=CC=C1C)C | C11H13NO
